US08486940B2
(S)-3-(1H-benzo[d]imidazol-6-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one
The compound was synthesized starting from (S)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.25 g, 1.31 mmol), 4-bromobenzene-1,2-diamine (0.245 g, 1.31 mmol), copper(I) iodide (0.025 g, 0.13 mmol), potassium carbonate (0.362 g, 2.62 mmol), cyclohexane-1,2-diamine (0.015 mL, 0.13 mmol), 5N HCl (6.5 mL), formic acid (0.648 mL) as described in method 5 step D

reactant | (S)-5,5-dimethyl-4-phenyloxazolidin-2-one | 1.31 mmol, 0.25 g | CC1([C@@H](NC(O1)=O)C1=CC=CC=C1)C | C11H13NO2
reactant | 4-bromobenzene-1,2-diamine | 1.31 mmol, 0.245 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | potassium carbonate | 2.62 mmol, 0.362 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexane-1,2-diamine | 0.13 mmol, 0.015 mL | C1(C(CCCC1)N)N | C6H14N2
reactant | HCl | 5N, 6.5 mL | Cl | ClH
catalyst | copper(I) iodide | 0.13 mmol, 0.025 g | [Cu]I
solvent | formic acid | 0.648 mL | C(=O)O | CH2O2
product | (S)-3-(1H-benzo[d]imidazol-6-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one | N1C=NC2=C1C=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C18H17N3O2
